US05770380
3-Aminomethyl-5-nitrobenzoic acid (HMY2717).
To a solution of methyl 3-aminomethyl-5-nitrobenzoate (5890 mg, 28 mmol) in THF (100 mL) was added a solution of LiOH (2350 mg, 56 mmol) in water (100 mL) and the mixture was stirred at r.t. for 2.5 hours. THF was evaporated and the aqueous solution was washed with Et2O (100 mL). The solution was neutralized with concentrated HCl (6 mL) and evaporated in vacuo. To a solution of evaporated residue in water (150 mL) and concentrated HCl (3 mL) was added 1N LiOH (50 mL). Brown fine needles were precipitated out and collected on a glass filter (5300 mg, 96%): 1H NMR (300 MHz, D2O) δ 8.645 (s, 1H), 8.412 (s, 1H), 8.232 (s, 1H), 4.332 (s, 2H).

reactant | methyl 3-aminomethyl-5-nitrobenzoate | 28 mmol, 5890 mg | NCC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C9H10N2O4
reactant | LiOH | 56 mmol, 2350 mg | [Li+].[OH-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 3-Aminomethyl-5-nitrobenzoic acid | NCC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C8H8N2O4
